US07585886B2
A 1.6 ml 1,4-dioxane solution of 110 mg of tert-butyl ({(3R,4S)-1-[4-(aminosulfonyl)benzoyl]-4-phenylpyrrolidin-3-yl}methyl)[(1R)-1-(1-naphthyl)ethyl]carbamate was mixed with 1.5 ml of 4 M hydrogen chloride/1,4-dioxane and stirred at room temperature for 60Hours. The reaction solution was concentrated under a reduced pressure, mixed with water and neutralized with saturated sodium bicarbonate solution. The organic layer extracted with chloroform was dried with anhydrous sodium sulfate and then concentrated under a reduced pressure. By crystallizing the thus obtained residue from ethyl acetate, 65 mg of 4-{[(3S,4S)-3-({[(1R)-1-(1-naphthyl)ethyl]amino}methyl)-4-phenylpyrrolidin-1-yl]carbonyl}benzene sulfonamide was obtained as colorless crystals.

reactant | tert-butyl ({(3R,4S)-1-[4-(aminosulfonyl)benzoyl]-4-phenylpyrrolidin-3-yl}methyl)[(1R)-1-(1-naphthyl)ethyl]carbamate | 110 mg | NS(=O)(=O)C1=CC=C(C(=O)N2C[C@@H]([C@H](C2)C2=CC=CC=C2)CN(C(OC(C)(C)C)=O)[C@H](C)C2=CC=CC3=CC=CC=C23)C=C1 | C35H39N3O5S
reactant | hydrogen chloride 1,4-dioxane | 4 M, 1.5 ml | Cl.O1CCOCC1
solvent | 1,4-dioxane | 1.6 ml | O1CCOCC1 | C4H8O2
product | 4-{[(3S,4S)-3-({[(1R)-1-(1-naphthyl)ethyl]amino}methyl)-4-phenylpyrrolidin-1-yl]carbonyl}benzene sulfonamide | 65 mg | C1(=CC=CC2=CC=CC=C12)[C@@H](C)NC[C@H]1CN(C[C@@H]1C1=CC=CC=C1)C(=O)C1=CC=C(C=C1)S(=O)(=O)N | C30H31N3O3S
